US07312330B2
D. N-(4-(Trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-2-(methylthio)pyrido[3,4-d]pyrimidin-4-amine
1-Chloroethyl chloroformate (572 mg, 4 mmol) was added dropwise to a mixture of 7-benzyl-N-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-2-(methylthio)pyrido[3,4-d]pyrimidin-4-amine (860 mg, 2 mmol) and diisopropylethyl amine (516 mg, 4 mmol) in 1,2-dichloroethane (5 mL, anhydrous) at 0° C. After addition, the reaction mixture was stirred at room temperature for 1 hr. Solvent was removed in vacuo, residue was dissolved in methanol (10 mL) and was stirred at room temperature overnight. Solvent was removed in vacuo, residue was dissolved in ethyl acetate and was washed with saturated aqueous sodium bicarbonate, brine and dried over sodium sulfate. Solvent was removed in vacuo and residue was triturated with diethyl ether to yield the product as a beige solid (454 mg).

reactant | 1-Chloroethyl chloroformate | 4 mmol, 572 mg | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | 7-benzyl-N-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-2-(methylthio)pyrido[3,4-d]pyrimidin-4-amine | 2 mmol, 860 mg | C(C1=CC=CC=C1)N1CC=2N=C(N=C(C2CC1)NC1=CC=C(C=C1)C(F)(F)F)SC | C22H21F3N4S
reactant | diisopropylethyl amine | 4 mmol, 516 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
product | N-(4-(Trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-2-(methylthio)pyrido[3,4-d]pyrimidin-4-amine | 454 mg | FC(C1=CC=C(C=C1)NC=1C2=C(N=C(N1)SC)CNCC2)(F)F | C15H15F3N4S
